*** SPICE deck for cell pixelv3{lay} from library pixel
*** Created on lun nov 11, 2019 23:23:22
*** Last revised on dom ene 19, 2020 18:00:51
*** Written on dom ene 19, 2020 18:04:19 by Electric VLSI Design System, version 9.07
*** Layout tech: mocmos, foundry MOSIS
*** UC SPICE *** , MIN_RESIST 4.0, MIN_CAPAC 0.1FF
***    P-Active:	areacap=0.9FF/um^2,	edgecap=0.0FF/um,	res=2.5ohms/sq
***    N-Active:	areacap=0.9FF/um^2,	edgecap=0.0FF/um,	res=3.0ohms/sq
***    Polysilicon-1:	areacap=0.1467FF/um^2,	edgecap=0.0608FF/um,	res=6.2ohms/sq
***    Polysilicon-2:	areacap=1.0FF/um^2,	edgecap=0.0FF/um,	res=50.0ohms/sq
***    Transistor-Poly:	areacap=0.09FF/um^2,	edgecap=0.0FF/um,	res=2.5ohms/sq
***    Poly-Cut:	areacap=0.0FF/um^2,	edgecap=0.0FF/um,	res=2.2ohms/sq
***    Active-Cut:	areacap=0.0FF/um^2,	edgecap=0.0FF/um,	res=2.5ohms/sq
***    Metal-1:	areacap=0.1209FF/um^2,	edgecap=0.1104FF/um,	res=0.078ohms/sq
***    Via1:	areacap=0.0FF/um^2,	edgecap=0.0FF/um,	res=1.0ohms/sq
***    Metal-2:	areacap=0.0843FF/um^2,	edgecap=0.0974FF/um,	res=0.078ohms/sq
***    Via2:	areacap=0.0FF/um^2,	edgecap=0.0FF/um,	res=0.9ohms/sq
***    Metal-3:	areacap=0.0843FF/um^2,	edgecap=0.0974FF/um,	res=0.078ohms/sq
***    Via3:	areacap=0.0FF/um^2,	edgecap=0.0FF/um,	res=0.8ohms/sq
***    Metal-4:	areacap=0.0843FF/um^2,	edgecap=0.0974FF/um,	res=0.078ohms/sq
***    Via4:	areacap=0.0FF/um^2,	edgecap=0.0FF/um,	res=0.8ohms/sq
***    Metal-5:	areacap=0.0843FF/um^2,	edgecap=0.0974FF/um,	res=0.078ohms/sq
***    Via5:	areacap=0.0FF/um^2,	edgecap=0.0FF/um,	res=0.8ohms/sq
***    Metal-6:	areacap=0.0423FF/um^2,	edgecap=0.1273FF/um,	res=0.036ohms/sq
***    Hi-Res:	areacap=0.0FF/um^2,	edgecap=0.0FF/um,	res=1.0ohms/sq

*** TOP LEVEL CELL: pixelv3{lay}
Mnmos@1 net@90 FD#2nmos@1_poly-right vdd_f nmos@1_n-trans-well NMOS L=0.6U W=3U AS=4.95P AD=1.688P PS=9.3U PD=4.65U
Mnmos@2 out select#2nmos@2_poly-left net@90 nmos@2_n-trans-well NMOS L=0.6U W=3U AS=1.688P AD=4.95P PS=4.65U PD=9.3U
Mnmos@3 vdd_reset reset#0nmos@3_poly-left FD nmos@3_n-trans-well NMOS L=0.6U W=3U AS=9.45P AD=4.95P PS=18.3U PD=9.3U
** Extracted Parasitic Capacitors ***
C0 out 0 1.427fF
C1 FD 0 3.614fF
C2 reset 0 0.973fF
C3 select 0 3.169fF
C4 select#2nmos@2_poly-left 0 0.134fF
C5 FD#3pin@50_polysilicon-1 0 0.141fF
C6 reset#1pin@103_polysilicon-1 0 0.284fF
C7 select#1pin@124_polysilicon-1 0 0.339fF
** Extracted Parasitic Resistors ***
R0 FD#2nmos@1_poly-right FD#2nmos@1_poly-right##0 6.975
R1 FD#2nmos@1_poly-right##0 FD#3pin@50_polysilicon-1 6.975
R2 FD FD#3pin@50_polysilicon-1 4.65
R3 reset#0nmos@3_poly-left reset#1pin@103_polysilicon-1 7.75
R4 select select#1pin@124_polysilicon-1 4.96
R5 select#2nmos@2_poly-left select#2nmos@2_poly-left##0 8.783
C8 select#2nmos@2_poly-left##0 0 0.134fF
R6 select#2nmos@2_poly-left##0 select#2nmos@2_poly-left##1 8.783
C9 select#2nmos@2_poly-left##1 0 0.134fF
R7 select#2nmos@2_poly-left##1 select#1pin@124_polysilicon-1 8.783
R8 reset reset#1pin@103_polysilicon-1 4.96

* Spice Code nodes in cell cell 'pixelv3{lay}'
D1 gnd_pix FD photodiode
I1 FD 0 300p
I2 out 0 5.7u
V1 vdd_reset 0 5
V2 vdd_f 0 5
V3 gnd_pix 0 0
V4 reset 0 PULSE(0 5 0 1p 1p 5u 100u 4)
V5 select 0 PULSE(0 5 90u 1p 1p 5u 100u 4)
.model photodiode D (IS = 50f CJO=6.3f  VJ= 0.636 M = 0.33)
.tran 100u
.include G:\Mi unidad\Universidad\Semestre Actual\Design IC\Tutoriales\C5_models.txt
.END
